US09056859B2
6-bromo-3,4-dihydro-1H-isochromen-1-one
A solution of DIPA (4 M, 270 mL, 1080 mmol) in THF (900 mL) was cooled to −65° C. and HexLi (2.1 M, 505 mL, 1061 mmol) was added dropwise over 15 min maintaining the internal temp <−55° C. Upon completion the reaction mixture was warmed up to −40° C. where it was stirred 30 min. To the resulting solution of LDA was added 4-bromo-2-methylbenzoic acid (90 g, 419 mmol) slowly (over 15 min) as a solution in THF (400 mL) during which time the reaction mixture turned into a bright red suspension. The reaction mixture was stirred for 30 min at −40° C. and then warmed to 15° C. at which point paraformaldehyde (50.3 g, 1674 mmol) was added in 3 portions as a solid keeping the internal temperature (ice water bath) below <18° C. Stirring was then continued at room temperature for 1 hour during which time the mixture turned an orange-yellow colour. After a second hour of stirring, the vessel was immersed in an ice water bath and 3N HCl (650 mL) was added at such a rate to keep the internal temperature less than 30° C. The contents of the reaction vessel was subsequently transferred to a separatory funnel where it was extracted 3× 400 mL EtOAc and the combined organic phases were then concentrated to ˜800 mL total volume. To this was added Amberlyst 15 resin (12 g) and the resulting mixture stirred at 48° C. overnight (˜14 h). HPLC analysis the following morning indicated that cyclization to the desired halolactone was nearly complete. The resin was removed by filtration and the yellow solution concentrated to ˜200 mL total volume at which point the desired product began to crystallize as a yellow solid which was then collected by filtration. The cake was subsequently washed with MTBE (2× 80 mL) to give the first crop of product. Additional material was salvaged by washing the collected supernatant 2× with 200 mL 10% K2CO3,aq followed by 200 mL 1M H3PO4. After concentration to ˜100 mL the crystallized material was collected by filtration, washed with MTBE and then combined with the first crop of and dried to afford the title compound. LCMS: m/z 227, 229 (M+1)+;

reactant | HexLi | 1061 mmol, 2.1 M, 505 mL | C(CCCCC)[Li]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 4-bromo-2-methylbenzoic acid | 419 mmol, 90 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | paraformaldehyde | 1674 mmol, 50.3 g | C=O | CH2O
reactant | HCl | 3N, 650 mL | Cl | ClH
solvent | THF | 900 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 6-bromo-3,4-dihydro-1H-isochromen-1-one | BrC=1C=C2CCOC(C2=CC1)=O | C9H7BrO2
